US05512581
To a solution of 6-(quinol-2-ylmethoxy)nicotinic acid methyl ester (5.06 g, 17.2 mmol), prepared as in step 2, in methanol (100 ml) at room temperature with stirring was added. 1N NaOH (18.9 ml, 18.9 mmol). The resulting mixture was allowed to stir at room temperature for 14 hours. The mixture was then refluxed for 3 hours, cooled to room temperature and concentrated in vacuo. The residue was diluted with water and the aqueous layer was extracted with ethyl acetate. The aqueous layer was acidified to pH 3 with 10% citric acid to give a white precipitate. The precipitate was filtered and washed with water and diethyl ether. The solid was dried overnight at 80° C. under reuced pressure to give 4.46 g of 6-(2-quinolylmethoxy)nicotinic acid.

reactant | 6-(quinol-2-ylmethoxy)nicotinic acid methyl ester | 17.2 mmol, 5.06 g | COC(C1=CN=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)=O | C17H14N2O3
reactant | NaOH | 18.9 mmol, 1N, 18.9 ml | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 6-(2-quinolylmethoxy)nicotinic acid | 4.46 g | N1=C(C=CC2=CC=CC=C12)COC1=NC=C(C(=O)O)C=C1 | C16H12N2O3
